US04657579
N-[1-methyl-(ethoxyimino)ethyl]-N-(4,6-dimethoxy-pyrimidin-5-yl)-chloroacetamide (cpd. 64 of Table I)
12.7 g N-[1-methyl-(ethoxyimino)ethyl]-4,6-dimethoxy-pyrimidine-5-amine and 150 ml dry CH2Cl2 are charged in a sulphonation flask. Thereto are added, dropwise, 6.2 g chloracetylchloride in 25 ml dry CH2Cl2. The reaction temperature rises from 22° to 28°. The reaction mixture is heated under reflux for 2 hours and cooled. Then 10% aqueous NaOH is added, the organic phase partitioned off, dried over Na2SO4 and evaporated.

reactant | N-[1-methyl-(ethoxyimino)ethyl]-4,6-dimethoxy-pyrimidine-5-amine | 12.7 g | CC(C=NOCC)NC=1C(=NC=NC1OC)OC | C11H18N4O3
reactant | chloracetylchloride | 6.2 g | ClCC(=O)Cl | C2H2Cl2O
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | N-[1-methyl-(ethoxyimino)ethyl]-N-(4,6-dimethoxy-pyrimidin-5-yl)-chloroacetamide | CC(C=NOCC)N(C(CCl)=O)C=1C(=NC=NC1OC)OC | C13H19ClN4O4
